US08207147B2
cis-4-[5-(3-Butoxymethylcyclopentyl)-[1,2,4]oxadiazol-3-yl]pyridine
A solution of cis-[3-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclopentyl]methanol (Preparation 5, 40 mg, 0.116 mmol) in anhydrous THF (2 ml) was treated with sodium hydride (23 mg of a 60% dispersion in oil, 0.57 mmol) and tetrabutylammonium iodide (6 mg, 16 μmol). After stirring the mixture at rt for 10 min, 1-bromobutane (59 μl, 0.65 mmol) was introduced and stirring continued for 72 h. The solvent was removed in vacuo, the residue dissolved in CH2Cl2 (20 ml) and washed with water (2×5 ml). The organic phase was dried (MgSO4) and evaporated. Flash chromatography (IH-EtOAc, 7:3) afforded the title compound: RT=3.99 min, m/z (ES−)=302.3 [M+H]+.

reactant | cis-[3-(3-pyridin-4-yl-[1,2,4]oxadiazol-5-yl)cyclopentyl]methanol | 0.116 mmol, 40 mg | N1=CC=C(C=C1)C1=NOC(=N1)[C@H]1C[C@H](CC1)CO | C13H15N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromobutane | 0.65 mmol, 59 μl | BrCCCC | C4H9Br
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 16 μmol, 6 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | cis-4-[5-(3-Butoxymethylcyclopentyl)-[1,2,4]oxadiazol-3-yl]pyridine | C(CCC)OC[C@H]1C[C@H](CC1)C1=NC(=NO1)C1=CC=NC=C1 | C17H23N3O2
